US04092150
A stirred solution of 6.3 grams of 2,4,6-trichloro-5-pyrimidinecarbonitrile in 150 ml of diethyl ether was cooled to -10°, and a solution of 4.4 grams of diethylamine in 75 ml of diethyl ether was added dropwise. Upon complete addition, the reaction mixture was stirred at -10° for 1 hour. Water was added to the reaction mixture. The diethyl ether layer was separated and dried over magnesium sulfate. The mixture was filtered, and the filtrate was evaporated under reduced pressure to a residue. The residue was recrystallized from methylcyclohexane to give 3.8 grams of 4,6-dichloro-2-diethylamino-5-pyrimidinecarbonitrile; mp, 125°-126°.

reactant | 2,4,6-trichloro-5-pyrimidinecarbonitrile | 6.3 grams | ClC1=NC(=C(C(=N1)Cl)C#N)Cl | C5Cl3N3
reactant | diethylamine | 4.4 grams | C(C)NCC | C4H11N
reactant | Water | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 4,6-dichloro-2-diethylamino-5-pyrimidinecarbonitrile | 3.8 grams | ClC1=NC(=NC(=C1C#N)Cl)N(CC)CC | C9H10Cl2N4
